US06133279
In 3 ml of dichloromethane were dissolved 0.20 g of 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid, 0.20 ml of triethylamine and 0.06 ml of pyrrolidine at room temperature, and 0.35 g of benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate was added and the mixture was stirred for 4 hours. The mixture was extracted with water and diethyl ether, and the combined organic layers were washed with saturated brine and dried over anhydrous magnesium sulfate. After concentration, the residue was purified by silica gel column chromatography eluting with n-hexane containing 33% ethyl acetate to give 0.21 g of 1-(4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carbonyl)pyrrolidine as a colorless solid (yield 92%).

reactant | 4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carboxylic acid | 0.20 g | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)O)C)C(C)(C)C)O[Si](C)(C)C | C21H34O4Si
reactant | triethylamine | 0.20 ml | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 0.06 ml | N1CCCC1 | C4H9N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.35 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(4,6-di-t-butyl-2-methyl-5-trimethylsilyloxy-2,3-dihydrobenzofuran-2-carbonyl)pyrrolidine | 0.21 g, yield 92% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)(C(=O)N2CCCC2)C)C(C)(C)C)O[Si](C)(C)C | C25H41NO3Si
